US05236952
A solution of 1.49 g of 2-phenylethylamine in 100 ml of methylene chloride is treated with 1.26 g of triethylamine. A solution of 3.0 g of 3,4-dimethoxy-5-nitrobenzoyl chloride in 100 ml of methylene chloride is added dropwise thereto while stirring, whereupon the mixture is stirred for a further 15 minutes. The organic phase is then extracted twice with 50 ml of ice-water each time, dried over sodium sulfate and evaporated in a water-jet vacuum. After recrystallization from methylene chloride/n-hexane there is obtained 3,4-dimethoxy-5-nitro-N-phenethylbenzamide in the form of pale beige needles of m.p. 121°-122°.

reactant | 2-phenylethylamine | 1.49 g | C1(=CC=CC=C1)CCN | C8H11N
reactant | triethylamine | 1.26 g | C(C)N(CC)CC | C6H15N
reactant | 3,4-dimethoxy-5-nitrobenzoyl chloride | 3.0 g | COC=1C=C(C(=O)Cl)C=C(C1OC)[N+](=O)[O-] | C9H8ClNO5
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3,4-dimethoxy-5-nitro-N-phenethylbenzamide | COC=1C=C(C(=O)NCCC2=CC=CC=C2)C=C(C1OC)[N+](=O)[O-] | C17H18N2O5
